US07601844B2
Step 2: 8-Bromo-4-chloroquinazoline
A suspension of 8-bromoquinazolin-4-ol (410 mg, 1.822 mmol) in phosphorous oxychloride (15.000 mL, 161 mmol) was heated to reflux. After refluxing 45 min, a clear, amber solution was observed. Refluxed an additional 30 min, concentrated in-vacuo, and concentrated 2× from methylene chloride to remove residual phosphorous oxychloride. The residue was taken up in ethyl acetate (50 mL), treated with the careful addition of saturated sodium bicarbonate, and this mixture was stirred for 5 minutes, until gas evolution had ceased. The layers were separated, the and the aqueous phase was extracted with ethyl acetate (20 mL). The combined organic phases were washed with saturated sodium bicarbonate, water, and saturated sodium chloride, dried over sodium sulfate, and concentrated in-vacuo to yield the title compound (442 mg, 1.815 mmol, 100% yield) as a tan powder which was used as-is in the next step.

reactant | 8-bromoquinazolin-4-ol | 1.822 mmol, 410 mg | BrC=1C=CC=C2C(=NC=NC12)O | C8H5BrN2O
reactant | phosphorous oxychloride | 161 mmol, 15.000 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-Bromo-4-chloroquinazoline | 1.815 mmol, 442 mg, 100% yield | BrC=1C=CC=C2C(=NC=NC12)Cl | C8H4BrClN2
